US08252793B2
To a suspension of zinc dust (1.93 g, 29.5 mmol) in dry THF (30 mL), under nitrogen, was added TMS-Cl (trimethylsilyl chloride) (1.28 g, 11.8 mmol). The reaction mixture was stirred for 15 min, and then ethylbromodifluoroacetate (4.49 g, 22.1 mmol) was slowly added, followed 15 min later by a solution 4-benzotriazol-ylmethylpiperazine-1-carboxylic acid tert-butyl ester (4.68 g, 14.8 mmol). After, 3 h stirring at room temperature, the mixture was poured onto 5% aqueous NaHCO3 (40 mL) and filtered on celite. The filtrate was diluted with ethyl acetate and organic layer was separated, dried (MgSO4) and concentrated to give an oil which was purified by flash chromatography (Hexane-Ethyl acetate (8:2) to give 1.05 g of 4-(2-ethoxycarbonyl-2,2-difluoro-ethyl)-piperazine-1-carboxylic acid tert-butyl ester as an oil.

reactant | TMS-Cl | 11.8 mmol, 1.28 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | ethylbromodifluoroacetate | 22.1 mmol, 4.49 g | C(C)OC(C(F)(F)Br)=O | C4H5BrF2O2
reactant | 4-benzotriazol-ylmethylpiperazine-1-carboxylic acid tert-butyl ester | 14.8 mmol, 4.68 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=CC=2NN=NC21 | C16H23N5O2
reactant | NaHCO3 | 40 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | zinc | 29.5 mmol, 1.93 g | [Zn] | Zn
product | 4-(2-ethoxycarbonyl-2,2-difluoro-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.05 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC(F)(F)C(=O)OCC | C14H24F2N2O4
